US07714009B2
5-Chloromethyl-N-mesityl-7-nitro-1,3-benzothiazol-2-amine
Thionyl chloride (0.191 ml, 2.62 mmol) was added to a solution of (2-mesitylamino-7-nitro-1,3-benzothiazol-5-yl)methanol (180 mg, 0.524 mmol) in chloroform. The mixture was stirred at room temperature for 18 h and at 60° C. for 24h. The mixture was poured into water and neutralized with saturated NaHCO3 solution. The aqueous solution was extracted with AcOEt. The extract was washed with brine, dried over magnesium sulfate and concentrated under vacuum. The residue was purified by chromatography eluting with 20% AcOEt in n-hexane to afford 122 mg of the title compound.

reactant | Thionyl chloride | 2.62 mmol, 0.191 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (2-mesitylamino-7-nitro-1,3-benzothiazol-5-yl)methanol | 0.524 mmol, 180 mg | C1(=C(C(=CC(=C1)C)C)NC=1SC2=C(N1)C=C(C=C2[N+](=O)[O-])CO)C | C17H17N3O3S
reactant | water | O | H2O
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-Chloromethyl-N-mesityl-7-nitro-1,3-benzothiazol-2-amine | 122 mg | ClCC=1C=C(C2=C(N=C(S2)NC2=C(C=C(C=C2C)C)C)C1)[N+](=O)[O-] | C17H16ClN3O2S
